US05641789
6-Hydroxychroman-4-one
A mixture of 50.0 g (281 mmol) of 6-methoxychroman-4-one in 350 mL 48% HBr and 350 mL acetic acid was heated to reflux under N2. After 4 hours, the reaction mixture was cooled to room temperature in a Rotovap (trademark) and 1 L H2O was added. The suspension was kept at 0° C. overnight. The mixture was filtered, and the precipitate washed two times with H2O, two times with hexanes and then dried under vacuum to give 43.0 g of the title product as a dark purple/black solid. 93% yield.

reactant | 6-methoxychroman-4-one | 281 mmol, 50.0 g | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
reactant | H2O | 1 L | O | H2O
solvent | HBr | 350 mL | Br | BrH
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
product | 6-Hydroxychroman-4-one | 43.0 g, 93% yield | OC=1C=C2C(CCOC2=CC1)=O | C9H8O3
